US06906084B2
(iv) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,4-dicarboxylic acid 4-methyl ester.
4.1 g 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester were dissolved in 100 ml trifluoro-acetic acid and stirred for 1 h at RT. Then 100 ml toluene was added and the solvents were removed under reduced pressure. This procedure was repeated three times, then the residue was dried in vacuo.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester | 4.1 g | COC(=O)C=1C=2C=C(N(C2C=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C23H21ClN2O5S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | trifluoro-acetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-indole-2,4-dicarboxylic acid 4-methyl ester | COC(=O)C=1C=2C=C(N(C2C=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl)C(=O)O | C19H13ClN2O5S
